US06703392B2
2-[1-(2-Phenyl-ethyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-cyclohexyl-acetamide:
prepared by reaction of 1-(2-Phenyl-ethyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with cyclohexylamine

reactant | 1-(2-Phenyl-ethyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)CCC1NCCC2=CC(=C(C=C12)OC)OC | C19H23NO2
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 2-[1-(2-Phenyl-ethyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-cyclohexyl-acetamide | C1(=CC=CC=C1)CCC1N(CCC2=CC(=C(C=C12)OC)OC)CC(=O)NC1CCCCC1 | C27H36N2O3
